US06150362
6-(1,4-dioxa-8-azaspiro[4,5]dec-8-yl)-1,3,5-triazine-2,4-diamine
A mixture of 2,4-diamino-6-chloro-1,3,5-triazine (2 g, 14 mmol), 1,4-dioxa-8-azaspiro[4.5]decane (3 g, 21 mmol), and KOH (100 mg, 1.8 mmol) in dioxane (10 mL) and ethanol (40 mL) was heated at reflux overnight, diluted with water, and filtered. The precipitate was rinsed with water and dried under vacuum to provide the title compound.

reactant | 2,4-diamino-6-chloro-1,3,5-triazine | 14 mmol, 2 g | NC1=NC(=NC(=N1)N)Cl | C3H4ClN5
reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 21 mmol, 3 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | KOH | 1.8 mmol, 100 mg | [OH-].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 6-(1,4-dioxa-8-azaspiro[4,5]dec-8-yl)-1,3,5-triazine-2,4-diamine | O1CCOC12CCN(CC2)C2=NC(=NC(=N2)N)N | C10H16N6O2
